### PR TITLE
[Merged by Bors] - feat(GroupTheory/GroupAction/Defs): `isPretransitive_of_compHom`

### PR DESCRIPTION
**Pull request by tb65536**
This PR adds `isPretransitive_of_compHom` after the related `isPretransitive_compHom`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by erdOne** [comment]
maintainer merge

File: Mathlib/GroupTheory/GroupAction/Defs.lean [hunk 1]
```diff
@@ -661,6 +661,13 @@ theorem isPretransitive_compHom
   obtain ⟨e, rfl⟩ : ∃ e, f e = m := hf m
   exact ⟨e, rfl⟩
 
+@[to_additive]
+theorem isPretransitive_of_compHom
```
Comment (urkud) [inline Mathlib/GroupTheory/GroupAction/Defs.lean:665]: This name will make it possible to use new-style dot notation:
```suggestion
theorem IsPretransitive.of_compHom
```
Also, I think that we should have `MulActionHom.isPretransitive` instead of this lemma.

Comment (tb65536) [reply Mathlib/GroupTheory/GroupAction/Defs.lean:665]: Ah, sure, that makes sense. I'll look into this when I get the chance.

Comment (tb65536) [reply Mathlib/GroupTheory/GroupAction/Defs.lean]: `MulActionHom` is for when one group acts on two sets, and you have an equivariant map between the sets. But here we have two groups acting on one set, and a group homomorphism between the groups.

Comment (urkud) [reply Mathlib/GroupTheory/GroupAction/Defs.lean]: You're right but I think that we should have a version that doesn't assume definitional equalities anyway. Something like (not tested)
```
theorem IsPretransitive.of_smul_eq {M N α : Type*} [SMul M α] [SMul N α]
    [IsPretransitive M α] (f : M → N) (hf : ∀ {c : M} {x : α}, f c • x = c • x) :
    IsPretransitive N α :=
```
with corollaries for `of_compHom` and `IsScalarTower` (do we already have it?).
And while you're on it, please add versions about `IsTransitive`.

Also, please use `M`, `N` for monoids and `α` for a type without any structure.

Comment (tb65536) [reply Mathlib/GroupTheory/GroupAction/Defs.lean]: Thanks! I've added this version you suggested. I'm not sure what the `IsScalarTower` version would be (since an `IsScalarTower M N α` doesn't come with a function `f : M → N`). And I thought that mathlib didn't have `IsTransitive`, only `IsPretransitive`.

Comment (urkud) [reply Mathlib/GroupTheory/GroupAction/Defs.lean]: You're right about `IsTransitive`. About `IsScalarTower`: in this case `f x = x • 1` and the required equality is provided by [smul_one_smul](https://leanprover-community.github.io/mathlib4_docs/Mathlib/GroupTheory/GroupAction/Defs.html#smul_one_smul).

File: Mathlib/GroupTheory/GroupAction/Defs.lean [hunk 2]
```diff
@@ -653,6 +653,19 @@ theorem isPretransitive_compHom
   obtain ⟨e, rfl⟩ : ∃ e, f e = m := hf m
   exact ⟨e, rfl⟩
 
+@[to_additive]
+theorem IsPretransitive.of_smul_eq {M N α : Type*} [SMul M α] [SMul N α]
+    [IsPretransitive M α] (f : M → N) (hf : ∀ {c : M} {x : α}, f c • x = c • x) :
+    IsPretransitive N α :=
+  ⟨fun x y ↦ (exists_smul_eq x y).elim (fun m h ↦ ⟨f m, hf.trans h⟩)⟩
```
Comment (urkud) [inline Mathlib/GroupTheory/GroupAction/Defs.lean:660]:
```suggestion
  ⟨fun x y ↦ (exists_smul_eq x y).elim fun m h ↦ ⟨f m, hf.trans h⟩⟩
```

File: Mathlib/GroupTheory/GroupAction/Defs.lean (hunk 1 above)
Comment (tb65536) [reply Mathlib/GroupTheory/GroupAction/Defs.lean]: Ah, of course. Thanks!

File: Mathlib/GroupTheory/GroupAction/Defs.lean [hunk 3]
```diff
@@ -666,6 +679,13 @@ theorem smul_one_smul {M} (N) [Monoid N] [SMul M N] [MulAction N α] [SMul M α]
 #align smul_one_smul smul_one_smul
 #align vadd_zero_vadd vadd_zero_vadd
 
+@[to_additive]
+theorem MulAction.IsPretransitive.of_isScalarTower
+    {M N α : Type*} [Monoid M] [Monoid N] [MulAction M α] [MulAction N α] [MulAction M N]
+    [IsScalarTower M N α] [IsPretransitive M α] :
+    IsPretransitive N α :=
```
Comment (urkud) [inline Mathlib/GroupTheory/GroupAction/Defs.lean:686]: You can use the same TC assumptions as in `smul_one_smul`. Otherwise LGTM. Thanks!
bors d+
```suggestion
theorem MulAction.IsPretransitive.of_isScalarTower (M : Type*) {N α : Type*} [Monoid N] [SMul M N]
    [MulAction N α] [SMul M α] [IsScalarTower M N α] [IsPretransitive M α] :
    IsPretransitive N α :=
```
